US07732448B2
Into 2 ml of N,N-dimethylformamide was resolved 183 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 166 mg of potassium carbonate and 85 mg of 2-methylpyrrolidine was added therein, and the mixture was stirred for 7 hours at 60° C. The reaction mixture was cooled to near room temperature, ethyl acetate was added therein, and the mixture was washed with a saturated sodium chloride aqueous solution three times. The organic layers were dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 207 mg of 4-(2-butynyloxy)-6-(2-methyl-pyrrolidin-1-yl) pyrimidine (hereinafter, referred to as Compound (21)).

reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 183 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylpyrrolidine | 85 mg | CC1NCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-butynyloxy)-6-(2-methyl-pyrrolidin-1-yl) pyrimidine | 207 mg | C(C#CC)OC1=NC=NC(=C1)N1C(CCC1)C | C13H17N3O
